US06479487B1
1-(4-Ethoxybutyl)-4-piperidone oxime is prepared from 1-(4-ethoxybutyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(4-ethoxybutyl)-4-piperidone | C(C)OCCCCN1CCC(CC1)=O | C11H21NO2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(4-Ethoxybutyl)-4-piperidone oxime | C(C)OCCCCN1CCC(CC1)=NO | C11H22N2O2
